US06110963
[1-Bromo-6-(2-butyl-benzofuran-3-carbonyl)-naphthalen-2-yloxy]-acetic acid
The title compound was prepared from 1-bromo-6-(2-butyl-benzofuran-3-carbonyl)-naphthalen-2-ol, and methyl bromoacetate, in substantially the same manner, as described in Example 4, and was obtained as a white solid, mp 163-165° C.; MS m/e 680 (M+);

reactant | 1-bromo-6-(2-butyl-benzofuran-3-carbonyl)-naphthalen-2-ol | BrC1=C(C=CC2=CC(=CC=C12)C(=O)C1=C(OC2=C1C=CC=C2)CCCC)O | C23H19BrO3
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
product | [1-Bromo-6-(2-butyl-benzofuran-3-carbonyl)-naphthalen-2-yloxy]-acetic acid | BrC1=C(C=CC2=CC(=CC=C12)C(=O)C1=C(OC2=C1C=CC=C2)CCCC)OCC(=O)O | C25H21BrO5
